US07632861B2
4-bromo-3-(bromomethyl)benzonitrile.
To a stirred solution of 4-bromo-3-methyl benzonitrile (5 g, 25.5 mmol) in CCl4 (200 mL), was added N-bromosuccinimide (4.99 g, 28.05 mmol) and 2,2-Azobisisobutyronitrile (335 mg, 2.04 mmol). The mixture was heated to reflux overnight then cooled, diluted with CH2Cl2 and quenched with 10% NaHSO3. The layers were separated and the CH2Cl2 layer was washed with saturated NaHCO3 and brine, dried over MgSO4, filtered and concentrated under vacuum. Column chromatography on silica gel (5-10% ethyl acetate/hexanes) afforded 4.31 g (3.65 mmol, 61%) of a mixture of mono- and di-bromo intermediates. 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 4.55 (s, 2H) 7.42 (dd, J=8.31, 2.01 Hz, 1H) 7.67-7.78 (m, 2H). Mass spec.: 275.94 (MH)+.

reactant | 4-bromo-3-methyl benzonitrile | 25.5 mmol, 5 g | BrC1=C(C=C(C#N)C=C1)C | C8H6BrN
reactant | N-bromosuccinimide | 28.05 mmol, 4.99 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CCl4 | 200 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-bromo-3-(bromomethyl)benzonitrile | 3.65 mmol, 4.31 g, 61% | BrC1=C(C=C(C#N)C=C1)CBr | C8H5Br2N
